US07989454B2
4-[3-{6-[3-benzo[1,3]dioxol-5-yl-5-(2-difluoromethoxy-benzylcarbamoyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester
The title compound was prepared by the same method as 4-{3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester starting from 4-[3-{6-[3-bromo-5-(2-difluoromethoxy-benzylcarbamoyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (200 mg, 0.262 mmol), 3,4-methylenedioxyphenylboronic acid (87 mg, 0.524 mmol), PdCl2(dppf) (29 mg, 0.04 mmol) and cesium carbonate (171 mg, 0.524 mmol) in 1,2-dimethoxyethane (5.0 mL) to obtain 4-[3-{6-[3-benzo[1,3]dioxol-5-yl-5-(2-difluoromethoxy-benzylcarbamoyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (184 mg, 88%) as a colorless oil.

reactant | 4-{3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy}-butyric acid ethyl ester | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)F)F)CCC(=O)OCC)=O | C38H47F2NO7
reactant | 4-[3-{6-[3-bromo-5-(2-difluoromethoxy-benzylcarbamoyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 0.262 mmol, 200 mg | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(NCC1=C(C=CC=C1)OC(F)F)=O)Br)CCC(=O)OCC)=O | C38H46BrF2NO8
reactant | 3,4-methylenedioxyphenylboronic acid | 0.524 mmol, 87 mg | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | cesium carbonate | 0.524 mmol, 171 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 5.0 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf) | 0.04 mmol, 29 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[3-{6-[3-benzo[1,3]dioxol-5-yl-5-(2-difluoromethoxy-benzylcarbamoyl)-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 184 mg, 88% | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C(NCC1=C(C=CC=C1)OC(F)F)=O)C1=CC2=C(OCO2)C=C1)CCC(=O)OCC)=O | C45H51F2NO10
